US09034866B2
To a stirred mixture of 9-Bromo-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (270 mg, 0.635 mmol) in TEA (5 mL) and DMF (1 mL) were added Pd(OAc)2 (14.22 mg), PPh3 (49.9 mg 0.190 mmol), CuI (24.1 mg, 0.127 mmol), 2-methylbut-3-yn-2-ol (266.6 mg, 3.174 mmol). The reaction mixture was degassed with N2 and heated to 80° C. for 6 h. Then the mixture was cooled to room temperature, and EtOAc was added. The mixture was filtered though Celite, and the filtrate was washed with saturated brine, dried over Na2SO4, filtered, concentrated in vacuo, and purified by flash column chromatography (silica gel, EtOAc in hexane from 10% to 20%) to afford 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (180 mg, 66%) as a light yellow solid. LC-MS (ESI & APCI): 429.0 (M+1).

reactant | 9-Bromo-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.635 mmol, 270 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)N3CCOCC3 | C17H17BrN2O4S
reactant | PPh3 | 0.190 mmol, 49.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-methylbut-3-yn-2-ol | 3.174 mmol, 266.6 mg | CC(C)(C#C)O | C5H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 14.22 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.127 mmol, 24.1 mg | [Cu]I
product | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-morpholin-4-yl-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 180 mg, 66% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)N3CCOCC3 | C22H24N2O5S
